US07037925B2
b) 4-(2-Ethylanilino)-6-methoxy-7-[3-(4-morpholinyl)propoxy]-3-quinolinecarboxamide.
A mixture of 4-Chloro-7-hydroxy-6-methoxy-3-quinolinecarboxamide (0.056 g, 0.22 mmol), 2-ethylaniline (32 μL, 0.26 mmol) and acetic acid (10 μL) in ethanol (5 ml) was heated at reflux for four hours. The solvents were removed by reduced pressure and the residue was chromatographed on silica using methanol as eluent. The product was dissolved in DMSO (5 ml), morpholinopropylchloride (0.018 g, 0.11 mmol) and Cs2CO3 (0.090 g, 0.28 mmol) were added and the mixture was heated at 100° C. for 20 hours. After cooling the mixture was poured on water and the water phases were extracted with methylenechloride. The residue was chromatographed on silica using methylenechloride/methanol (9/1–1/1) as eluent, affording 9 mg (9% yield) of the titled compound. 1H NMR (CDCl3): δ 11.05 (1H, s); 8.96 (1H, s); 7.35 (1H, s); 7.32 (1H, dd); 7.12 (2H, m); 6.91 (1H, dd); 6.74 (1H, s); 4.22 (2H, m); 3.68 (4H, m); 3.25 (3H, s); 2.80 (2H, m); 2.52 (2H, q); 2.44 (4H, m); 2.08 (2H, m); 1.30 (3H, t).

reactant | 4-Chloro-7-hydroxy-6-methoxy-3-quinolinecarboxamide | 0.22 mmol, 0.056 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)O)C(=O)N | C11H9ClN2O3
reactant | 2-ethylaniline | 0.26 mmol, 32 μL | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | morpholinopropylchloride | 0.11 mmol, 0.018 g | O1CCN(CC1)CCCCl | C7H14ClNO
reactant | Cs2CO3 | 0.28 mmol, 0.090 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | acetic acid | 10 μL | C(C)(=O)O | C2H4O2
product | 4-(2-Ethylanilino)-6-methoxy-7-[3-(4-morpholinyl)propoxy]-3-quinolinecarboxamide | 9 mg, 9% yield | C(C)C1=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OCCCN2CCOCC2)C(=O)N)C=CC=C1 | C26H32N4O4
